US06159971
N-[4-(4-Morpholinyl)phenyl]-8-methoxy-5-(4-methyl-piperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-carboxamide.
A solution of N-[4-(4-morpholinyl)phenyl]-5-amino-8-methoxy-3,4-dihydro-2H-1-benzopyran-3-carboxamide (270 mg, 0.7 mmol), bis (2-chloroethyl)-methylamine hydrochloride (288 mg, 1.5 mmol) and sodium hydrogen carbonate (126 mg, 1.5 mmol) in n-butanol (10 mL) was stirred at 90° C. for 2.5 h. 2 M ammonia (10 mL) was added at 50° C., the mixture was cooled and the phases were separated. The organic phase evaporated in vacuo and the residue was purified by column chromatography on silica gel using ethyl acetate/triethyl amine (100:8) as the eluent affording 170 mg (50% yield) of the title compound as white crystals: mp 202-204° C.; EIMS (70 eV) m/z (relative intensity) 466 (100 M+).

reactant | N-[4-(4-morpholinyl)phenyl]-5-amino-8-methoxy-3,4-dihydro-2H-1-benzopyran-3-carboxamide | 0.7 mmol, 270 mg | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C1COC2=C(C1)C(=CC=C2OC)N | C21H25N3O4
reactant | bis (2-chloroethyl)-methylamine hydrochloride | 1.5 mmol, 288 mg | Cl.ClCCN(C)CCCl
reactant | sodium hydrogen carbonate | 1.5 mmol, 126 mg | C(O)([O-])=O.[Na+]
reactant | ammonia | 2 M, 10 mL | N | H3N
solvent | n-butanol | 10 mL | C(CCC)O | C4H10O
product | N-[4-(4-Morpholinyl)phenyl]-8-methoxy-5-(4-methyl-piperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-carboxamide | 170 mg, 50% yield | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)C1COC2=C(C1)C(=CC=C2OC)N2CCN(CC2)C | C26H34N4O4
